US06043254
(a) 1-acetyl-3-[1-hydroxy-1-(3-cyano-phenyl)methylidene]-2-indolinone
Prepared from 1-acetyl-2-indolinone and 3-cyano-benzoic acid in dry DMF in the presence of TBTU, HOBT and Huinig's base (35° C., for 2 hours) and final purification by column chromatography on silica gel with CH2Cl2 /MeOH (10:1) as eluant.

reactant | 1-acetyl-2-indolinone | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | 3-cyano-benzoic acid | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-acetyl-3-[1-hydroxy-1-(3-cyano-phenyl)methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC(=CC=C1)C#N)O)=O | C18H12N2O3
